US04595677
1 g of Z-Sta-Ile-His-Lys(Boc)-OMe is dissolved in 10 ml of 95% strength MeOH and hydrogenated with 100 mg of Pd-on-carbon (10% pd) with CO2 -absorption until saturation. After filtering off the catalyst and concentrating to dryness there is obtained H-Sta-Ile-His-Lys(Boc)-OMe in the form of amorphous powder, which is directly further processed; Rf (B)=0.32; Rf (I)=0.17.

reactant | Z-Sta-Ile-His-Lys(Boc)-OMe | 1 g | N([C@@H](CC(C)C)[C@@H](O)CC(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C40H63N7O10
reactant | CO2 | C(=O)=O | CO2
solvent | MeOH | CO | CH4O
product | H-Sta-Ile-His-Lys(Boc)-OMe | N[C@@H](CC(C)C)[C@@H](O)CC(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC | C32H57N7O8
